US04310590
To a solution of 8.0 g. (0.2 mole) of sodium hydroxide in 32 ml of water was added 39.4 g. (0.2 mole) of dibenzyl amine. The mixture was cooled to 0° and to it was added 25.3 g. (0.334 mole) of carbon disulfide. A solid separated spontaneously. The mixture was stirred at room temperature for 1 hour, and then filtered. The solid was triturated first with 100 ml of ether and then with 100 ml of benzene and dried to give 43.5 g. (74% yield) of N,N-dibenzyldithiocarbamic acid sodium salt, mp 260°.

reactant | sodium hydroxide | 0.2 mole | [OH-].[Na+]
reactant | dibenzyl amine | 0.2 mole | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | carbon disulfide | 0.334 mole | C(=S)=S | CS2
solvent | water | 32 ml | O | H2O
product | N,N-dibenzyldithiocarbamic acid sodium salt | 74% yield | [Na+].C(C1=CC=CC=C1)N(C([S-])=S)CC1=CC=CC=C1 | InChI=1S/C15H15NS2.Na/c17-15(18)16(11-13-7-3-1-4-8-13)12-14-9-5-2-6-10-14;/h1-10H,11-12H2,(H,17,18);/q;+1/p-1
